US07842696B2
LiOH in water (82 mg in 2 mL of water) was added dropwise to (2-hydroxy-benzoyl amino)-acetic acid ethyl ester (110 mg, 0.49 mmol) in a mixture of THF and MeOH. The THF and MeOH were evaporated under reduced pressure and the residue was acidified using 10% citric acid solution. The product was extracted with EtOAc. The organic layer was washed with brine, dried over Na2SO4 and concentrated under reduced pressure to afford (2-hydroxybenzoyl amino)-acetic acid in 93% yield. 1H NMR (DMSO-D6): δ 12.8 (s, 1H), 12.2 (s, 1H), 9.2 (t, 1H), 7.9 (d, 1H), 7.5 (dt, 1H), 7.0 (d, 2H), 4.0 (d, 2H).

reactant | LiOH | [Li+].[OH-]
reactant | (2-hydroxy-benzoyl amino)-acetic acid ethyl ester | 0.49 mmol, 110 mg | C(C)OC(CNC(C1=C(C=CC=C1)O)=O)=O | C11H13NO4
solvent | water | 2 mL, 82 mg | O | H2O
solvent | THF | C1CCOC1 | C4H8O
solvent | MeOH | CO | CH4O
product | (2-hydroxybenzoyl amino)-acetic acid | 93% yield | OC1=C(C(=O)NCC(=O)O)C=CC=C1 | C9H9NO4
